US04206310
To a suspended CH2Cl2 (2 ml) solution of 2-bromo-1-methylpyridinium (720 mg, 2.4 mmol) was added a mixture of cinnamyl alcohol (268 mg, 2.0 mmol), acetic acid (120 mg, 2.0 mmol) and tri-n-butylamine (888 mg, 4.8 mmol) in CH2Cl2 (2 ml), and the resulting mixture was refluxed for 3 hours. After evaporation of the solvent, the residue was separated by silica gel column chromatography, and cinnamyl acetate was isolated in 82% yield.

reactant | 2-bromo-1-methylpyridinium | 2.4 mmol, 720 mg | BrC1=[N+](C=CC=C1)C
reactant | cinnamyl alcohol | 2.0 mmol, 268 mg | C(C=CC1=CC=CC=C1)O | C9H10O
reactant | acetic acid | 2.0 mmol, 120 mg | C(C)(=O)O | C2H4O2
reactant | tri-n-butylamine | 4.8 mmol, 888 mg | C(CCC)N(CCCC)CCCC | C12H27N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | cinnamyl acetate | 82% yield | C(C)(=O)OCC=CC1=CC=CC=C1 | C11H12O2
